US07179812B2
3-Chloro-6-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyridazine (2.50 g, 10.7 mmol) is dissolved in ethyl acetate (450 ml) and hydrogenated for 3.5 h at r.t. in the presence of palladium on charcoal (10%, 2.50 g). The reaction mixture is filtered and concentrated in vacuo. The residue was dissolved in THF (10 ml) and added to a solution of benzyl alcohol (0.94 ml, 9.0 mmol) and sodium tert-butoxide (NaOtBu) (0.842 g, 8.76 mmol) in THF (80 ml). After stirring for 2 h ethyl acetate (100 ml) is added, the mixture is washed with saturated ammonium chloride (NH4Cl), dried over Na2SO4 and concentrated in vacuo. After flash column chromatography (ethyl acetate) 3-chloro-6-(4-[1,2,3]triazol-1-yl-butyl)-pyridazine is obtained as a colorless solid. Yield 1.14 g (45%).

reactant | 3-Chloro-6-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyridazine | 10.7 mmol, 2.50 g | ClC=1N=NC(=CC1)C#CCCN1N=NC=C1 | C10H8ClN5
reactant | benzyl alcohol | 9.0 mmol, 0.94 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium tert-butoxide | 8.76 mmol, 0.842 g | CC(C)([O-])C.[Na+]
solvent | ethyl acetate | 450 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 2.50 g | [Pd] | Pd
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-chloro-6-(4-[1,2,3]triazol-1-yl-butyl)-pyridazine | ClC=1N=NC(=CC1)CCCCN1N=NC=C1 | C10H12ClN5
